US06984741B2
Synthesis of 2-(n-butyl)-3(2H)-benzofuranone
4.6 g of 3-acetoxy-2-(n-butyl)benzofuran were dissolved in 20 ml of ethanol in a 100 ml flask, and 20 ml 6N hydrochloric acid were added. The mixture was heated to reflux for 4 hours. After cooling to room temperature, the pH was adjusted to 4 to 6 with sodium hydroxide, and the ethanol was distilled off. This was followed by extraction with dichloromethane. Drying of the combined organic phases over sodium sulphate and removal of the solvent resulted in 2.8 g (76% of theory) of 2-(n-butyl)-3(2H)-benzofuranone as yellow oil.

reactant | 3-acetoxy-2-(n-butyl)benzofuran | 4.6 g | C(C)(=O)OC1=C(OC2=C1C=CC=C2)CCCC | C14H16O3
reactant | hydrochloric acid | 6N, 20 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(n-butyl)-3(2H)-benzofuranone | C(CCC)C1OC2=C(C1=O)C=CC=C2 | C12H14O2
